US08957203B2
Step 2: Preparation of 1-chloro-7-fluoro-4-cyclopropoxyisoquinoline
To a solution of 1-chloro-7-fluoroisoquinolin-4-ol (1 g, 5.06 mmol) in DMF (5 mL) was added Cs2CO3 (4.95 g, 15.18 mmol) followed by cyclopropyl bromide (1.2 mL, 15.18 mmol) at room temperature. The reaction vessel (Pressure tube) was sealed and heated at 145° C. for 18 h. The reaction mass was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to get desired compound (0.24 g, 20%) as a yellow solid.

reactant | 1-chloro-7-fluoroisoquinolin-4-ol | 5.06 mmol, 1 g | ClC1=NC=C(C2=CC=C(C=C12)F)O | C9H5ClFNO
reactant | Cs2CO3 | 15.18 mmol, 4.95 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cyclopropyl bromide | 15.18 mmol, 1.2 mL | C1(CC1)Br | C3H5Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-chloro-7-fluoro-4-cyclopropoxyisoquinoline | 0.24 g, 20% | ClC1=NC=C(C2=CC=C(C=C12)F)OC1CC1 | C12H9ClFNO
